US08703096B2
N-(4-(2-bromoacetyl)-2-methylphenyl)-2,2,2-trifluoroacetamide (B2).
2,2,2-trifluoro-N-o-tolylacetamide (5.0 g; 24.6 mmol) was dissolved in 20 mL CS2. The mixture was cooled below 10° C. Bromoacetic bromide (10.1 g; 50.0 mmol) was added dropwise. AlCl3 (10.0 g; 75.0 mmol) was added in portions, with drying tube attached to the reaction flask. The reaction mixture was refluxed overnight. After the reaction is complete as monitored by TLC, the upper CS2 layer was removed. The lower layer was added into 7.0 mL ice water mixed with HCl. The product was extracted into CH2Cl2, and dried over MgSO4. The solvent was removed, and the solid was dried to afford 5.0 g of crude product, which was purified by silica gel column chromatography, to afford 3.0 g (yield 38%) of product as yellow solid. 1H NMR (300 MHz; CDCl3), δ 8.40 (s, 1H, Ar—H), 7.87 (brs+d, 3JHH=8.0 Hz, 2H, Ar—H), 7.43 (d, 3JHH=8.0 Hz, 1H, Ar—H), 4.46 (s, 2H, COCH2Br), 2.41 (s, 3H, CH3).

reactant | 2,2,2-trifluoro-N-o-tolylacetamide | 24.6 mmol, 5.0 g | FC(C(=O)NC1=C(C=CC=C1)C)(F)F | C9H8F3NO
reactant | Bromoacetic bromide | 50.0 mmol, 10.1 g | BrCC(=O)Br | C2H2Br2O
reactant | AlCl3 | 75.0 mmol, 10.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CS2 | 20 mL | C(=S)=S | CS2
product | N-(4-(2-bromoacetyl)-2-methylphenyl)-2,2,2-trifluoroacetamide | 3.0 g, yield 38% | BrCC(=O)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)C | C11H9BrF3NO2
